US07977344B2
6-Amino-2-butylamino-9-(tetrahydro-2H-Pyran-2-ylmethyl)-7,9-dihydro-8H-Purin-8-one
To a solution of N2-butyl-8-methoxy-9-(tetrahydro-2H-pyran-2-ylmethyl)-9H-purine-2,6-diamine in dry methanol (5 ml) at room temperature and under nitrogen was added 4.0M hydrogen chloride in 1,4-dioxane (1.5 ml) in one go. The reaction was left to stir at room temperature overnight. The reaction was concentrated in vacuo and the product purified by MDAP. This afforded the title compound 6 mg (slower-running on MDAP).

reactant | N2-butyl-8-methoxy-9-(tetrahydro-2H-pyran-2-ylmethyl)-9H-purine-2,6-diamine | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CC1OCCCC1)OC)N | C16H26N6O2
reactant | hydrogen chloride | 4.0M | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | 6-Amino-2-butylamino-9-(tetrahydro-2H-Pyran-2-ylmethyl)-7,9-dihydro-8H-Purin-8-one | 6 mg | NC1=C2NC(N(C2=NC(=N1)NCCCC)CC1OCCCC1)=O | C15H24N6O2
